US05948820
(3) Ethyl 2-ethyl-2-methoxycarbonylamino-4-(4-(4-phenylbutyloxy)phenyl)butanoate
Ethyl chloroformate (7.4 g) was added to a solution of 2-ethoxy-carbonyl-2-ethyl-4-(4-(4-phenylbutyloxy)phenyl)butanoic acid (23 g) and triethylamine (9.5 ml) in acetone (224 ml) at 0° C. and the mixture was stirred at 0° C. for 70 minutes. A solution of sodium azide (4.4 g) in water (30 ml) was added thereto and the whole mixture was stirred at 0° C. for 45 minutes. The reaction mixture was poured into ice-water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and a saturated brine, dried over anhydrous magnesium sulfate and the solvent was distilled away under reduced pressure. The residue obtained was dissolved in benzene (200 ml) and the solution was refluxed under heating for 70 minutes. Methanol (50 ml) and p-toluenesulfonic acid monohydrate (catalytic amount) were added to the solution. The mixture was further refluxed under heating for 10 minutes and allowed to stand at room temperature overnight. The solvent was distilled away and the residue obtained was purified by silica gel column chromatography (eluent; ethyl acetate:n-hexane=1:4) to give the subject compound (5.7 g).

reactant | Ethyl chloroformate | 7.4 g | ClC(=O)OCC | C3H5ClO2
reactant | 2-ethoxy-carbonyl-2-ethyl-4-(4-(4-phenylbutyloxy)phenyl)butanoic acid | 23 g | C(C)OC(C(=O)O)(C(CC1=CC=C(C=C1)OCCCCC1=CC=CC=C1)=C=O)CC | C25H30O5
reactant | sodium azide | 4.4 g | [N-]=[N+]=[N-].[Na+]
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | acetone | 224 ml | CC(=O)C | C3H6O
solvent | water | 30 ml | O | H2O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | Methanol | 50 ml | CO | CH4O
solvent | triethylamine | 9.5 ml | C(C)N(CC)CC | C6H15N
product | Ethyl 2-ethyl-2-methoxycarbonylamino-4-(4-(4-phenylbutyloxy)phenyl)butanoate | 5.7 g | C(C)C(C(=O)OCC)(CCC1=CC=C(C=C1)OCCCCC1=CC=CC=C1)NC(=O)OC | C26H35NO5
